US07868188B2
N-[4-Methyl-5-(6-phenylsulfonylaminopyrazin-2-yl)-1,3-thiazol-2-yl]acetamide
A mixture of 2-acetamido-4-methylthiazole (891 mg), N-(6-chloropyrazin-2-yl)benzenesulfonamide (1.4 g), palladium acetate (94 mg), caesium fluoride (2.35 g), tri-tert-butylphosphine (0.34M in hexane, 2.4 mL) and DMSO (45 mL) was purged with nitrogen. The resultant mixture was stirred and heated to 160° C. for 3.5 hours. The bulk of the DMSO was evaporated and water (50 mL) was added. The resultant solid was filtered off, washed with water and dried under vacuum. A 19:1 mixture of dichloromethane and methanol was added and the mixture was filtered. The filtrate was evaporated and the residue was purified by column chromatography on silica using a solvent gradient of 3% to 5% methanol in dichloromethane as eluent. There was thus obtained the title compound as a solid (95 mg); 1H NMR Spectrum: (DMSOd6) 2.20 (s, 3H), 2.49 (s, 3H), 7.60-7.70 (m, 3H), 8.06 (m, 2H), 8.11 (s, 1H), 8.47 (s, 1H), 11.68 (s, 1H), 12.27 (s, 1H); Mass Spectrum: M+H+ 390.

reactant | 2-acetamido-4-methylthiazole | 891 mg | C(C)(=O)NC=1SC=C(N1)C | C6H8N2OS
reactant | N-(6-chloropyrazin-2-yl)benzenesulfonamide | 1.4 g | ClC1=CN=CC(=N1)NS(=O)(=O)C1=CC=CC=C1 | C10H8ClN3O2S
reactant | caesium fluoride | 2.35 g | [F-].[Cs+]
reactant | tri-tert-butylphosphine | 0.34M, 2.4 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | palladium acetate | 94 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMSO | 45 mL | CS(=O)C | C2H6OS
product | N-[4-Methyl-5-(6-phenylsulfonylaminopyrazin-2-yl)-1,3-thiazol-2-yl]acetamide | 95 mg | CC=1N=C(SC1C1=NC(=CN=C1)NS(=O)(=O)C1=CC=CC=C1)NC(C)=O | C16H15N5O3S2
